US04663344
A stirred, ice-bath cooled mixture of methyl 3-hydroxybenzo[b]thiophene-2-carboxylate (J. Org. Chem. 32, 2678 (1967) (2.1 g, 0.01 m) and dry methylene chloride (25 ml) was treated with ethereal diazomethane in portions until the yellow color of the diazomethane persists, and nitrogen was no longer evolved. Concentration in vacuo yielded methyl 3-methoxybenzo[b]-thiophene-2-carboxylate as a pale tan solid; m/z 324 (M+.). The material was used without further purification in the next step.

reactant | methyl 3-hydroxybenzo[b]thiophene-2-carboxylate | OC=1C2=C(SC1C(=O)OC)C=CC=C2 | C10H8O3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-methoxybenzo[b]-thiophene-2-carboxylate | COC=1C2=C(SC1C(=O)OC)C=CC=C2 | C11H10O3S
